Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-2.75960597247
[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.18053009637
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.0409050979
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[C:1][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[C:2],7.3840954385
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:13]([H:14])[H:15],4.76902811004
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7],4.82628354511
[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1][C@:2]([H:3])([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10],5.96060270148
[H:6].[O:1][O:2][C:3]([H:4])=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.6434860178
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.11402939314
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.53602516979
[H:1][C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:11]([O:10][C:7]([O:6])([H:8])[H:9])([H:12])[H:13],0.7197997541410001
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],1.25942808887
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],6.77603624072
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:1],3.54618800046
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:3],5.12627742637
[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.5983002084699995
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12].[H:8],4.78359966263
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.85890683639
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.84119641521
[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1],4.289600356519999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:3],1.92028990696
[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.57678958661
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.14309278079
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10],4.80946917707
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:9][C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-2.56173769602
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.41440772758
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])[C:4]([O:5][O:6])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-2.84527119485
